US05703109
a) 1-(4-cyanophenyl)-3-(4-fluorophenyl)prop-2-en-1-one
4-Acetylbenzonitrile (14.5 g, 0.1 mol) and 4-fluorobenzaldehyde (12.1 g, 0.1 mol) are dissolved in methanol (150 ml) and solid sodium hydroxide is added to make the solution alkaline. The mixture is stirred in room temperature for 6 hours. The product is filtered off and washed with methanol.

reactant | 4-Acetylbenzonitrile | 0.1 mol, 14.5 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | 4-fluorobenzaldehyde | 0.1 mol, 12.1 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-(4-cyanophenyl)-3-(4-fluorophenyl)prop-2-en-1-one | C(#N)C1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)F)=O | C16H10FNO
